US07851469B2
4-{4-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-benzonitrile
As described for Example 24, 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole (100 mg, 0.34 mmol), using 4-fluorobenzonitrile instead of 4-fluoroacetophenone, was converted to the title compound (90 mg, 67%) which was obtained as a white solid. MS: m/e=399.1 [M+H]+.

reactant | 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole | 0.34 mmol, 100 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CNC1)C(F)(F)F | C13H7F4N3O
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
product | 4-{4-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-benzonitrile | 90 mg, 67% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C#N)C=C1)C(F)(F)F | C20H10F4N4O
